US05391541
In a flask under a nitrogen atmosphere, 81.60 grams (0.346 mole) of 2,3-dichloro-5-nitrobenzoic acid was dissolved in 325 mL of tetrahydrofuran, and this solution was cooled to below 10° C. To this solution was slowly added 400 mL (0.400 mole) of a 1.0M solution of borane-tetrahydrofuran complex in tetrahydrofuran. Upon completion of addition, the temperature of the reaction mixture was allowed to rise to ambient conditions, at which it was stirred for about 20 hours. At the conclusion of this period, 40 mL of water was slowly added to the reaction mixture. This was followed by the addition of 220 mL of 10% aqueous hydrochloric acid. Addition of the water had caused the mixture to become cloudy, but addition of the acid restored the clarity of the solution. The solvent was concentrated under reduced pressure, leaving a residue which was then dissolved in approximately 1500 mL of ethyl acetate. This solution was washed in succession three times with water, four times with an aqueous solution of sodium bicarbonate, once with water, and finally with a saturated aqueous solution of sodium chloride. The solution was dried over anhydrous sodium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving 61.90 grams of 2,3-dichloro-5-nitrophenylmethanol as a solid residue. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3-dichloro-5-nitrobenzoic acid | 0.346 mole, 81.60 grams | ClC1=C(C(=O)O)C=C(C=C1Cl)[N+](=O)[O-] | C7H3Cl2NO4
reactant | water | 40 mL | O | H2O
reactant | hydrochloric acid | 220 mL | Cl | ClH
solvent | tetrahydrofuran | 325 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | approximately 1500 mL | C(C)(=O)OCC | C4H8O2
product | 2,3-dichloro-5-nitrophenylmethanol | 61.90 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CO | C7H5Cl2NO3
